US06777559B2
reaction of 4-oxiranylmethoxy-9H-carbazole with benzyl-[2-(2-methoxy-phenoxy]-ethylamine to give a 1-{benzyl-[2-(2-methoxy-phenoxy)-ethyl]-amino}-3-(9H-carbazol-4-yloxy)propan-2-ol;

reactant | 4-oxiranylmethoxy-9H-carbazole | O1C(C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
reactant | 2-(2-methoxy-phenoxy]-ethylamine | COC1=C(OCCN)C=CC=C1 | C9H13NO2
product | 1-{benzyl-[2-(2-methoxy-phenoxy)-ethyl]-amino}-3-(9H-carbazol-4-yloxy)propan-2-ol | C(C1=CC=CC=C1)N(CC(COC1=CC=CC=2NC3=CC=CC=C3C12)O)CCOC1=C(C=CC=C1)OC | C31H32N2O4
